US04751223
6-Cyano-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]-benzodiazepine
Acetic acid (30 ml) was added to a slurry consisting of sodium cyanide (10 g), 1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]-benzodiazepine (19 g) and ethyl acetate (250 ml) dropwise at room temperature. The mixture was stirred for 18 hours and thereafter diluted with ethyl acetate to 1 liter and washed with 1N sodium hydroxide (2×500 ml), water (2×600 ml) and brine (2×600 ml) The solution was dried over anhydrous magnesium sulfate and concentrated to a solid. The solid was triturated with ether (2×150 ml). Recrystallization from hot toluene (450 ml) yielded 14.8 g of crystals, m.p. 185°-186.5° C.

reactant | Acetic acid | 30 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanide | 10 g | [C-]#N.[Na+]
reactant | 1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]-benzodiazepine | 19 g | C1CC2=CC=CC=3C=NC4=C(N1C32)C=CC=C4 | C15H12N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 6-Cyano-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]-benzodiazepine | 14.8 g | C(#N)C1NC2=C(N3C4=C1C=CC=C4CC3)C=CC=C2 | C16H13N3
